US08492582B2
Potassium carbonate (2.0 g) and thiomorpholine (1.1 mL) were added to an acetone (20 mL) solution of methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate (2.0 g), followed by heating to reflux for 4 hours. The reaction mixture was cooled to room temperature, and thiomorpholine (0.55 mL) was added thereto, followed by heating to reflux for 2 hours and 30 minutes. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and water and chloroform were added to the residue. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 70-40% hexane/ethyl acetate] to obtain 1.9 g of methyl 2-(2-(benzyloxy)-5-(2-(thiomorpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate as a white solid.

reactant | Potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiomorpholine | 1.1 mL | N1CCSCC1 | C4H9NS
reactant | methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 2.0 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCBr | C30H26BrNO5
reactant | thiomorpholine | 0.55 mL | N1CCSCC1 | C4H9NS
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | methyl 2-(2-(benzyloxy)-5-(2-(thiomorpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate | 1.9 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCSCC1 | C34H34N2O5S
